US09340509B2
A mixture of 5-bromo-8-iodoquinoline (0.52 g, 1.55 mmol), Zn(CN)2 (218 mg, 1.86 mmol), and dppf (103 mg, 0.186 mmol) in DMF (2.5 mL) was purged with N2 (gas) for 5 minutes. Pd2(dba)3 (85 mg, 0.093 mmol) was added and the resulting mixture was heated at 95° C. for 5 h. After completion of the reaction, it was cooled to r.t., diluted with water, and the aqueous solution was extracted with ethyl acetate (3×50 mL). The combined organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel, eluting with ethyl acetate-hexanes (5-25%) to get 5-bromoquinoline-8-carbonitrile as a brown solid (72 mg).

reactant | 5-bromo-8-iodoquinoline | 1.55 mmol, 0.52 g | BrC1=C2C=CC=NC2=C(C=C1)I | C9H5BrIN
reactant | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | Zn(CN)2 | 1.86 mmol, 218 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | dppf | 0.186 mmol, 103 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Pd2(dba)3 | 0.093 mmol, 85 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-bromoquinoline-8-carbonitrile | 72 mg | BrC1=C2C=CC=NC2=C(C=C1)C#N | C10H5BrN2
